US04716241
2.84 g of 2,2,5,5-tetramethylcyclopentanol and 3.2 ml of pyridine were dissolved in 20 ml of methylene chloride, and 4.5 g of methanesulfonyl chloride was added thereto. The mixture was stirred at room temperature for 12 hours, and then 50 ml of aqueous saturated sodium hydrogen carbonate solution was added thereto. The mixture was extracted with 50 ml of ethyl acetate, and the organic layer was washed with aqueous 10% copper sulfate solution, and concentrated under reduced pressure. The resulting residue was recrystallized from n-hexane, whereby 1.26 g of 1-methanesulfonyloxy-2,2,5,5-tetramethylcyclopentane was obtained (m.p 46° C.).

reactant | 2,2,5,5-tetramethylcyclopentanol | 2.84 g | CC1(C(C(CC1)(C)C)O)C | C9H18O
reactant | pyridine | 3.2 ml | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 4.5 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium hydrogen carbonate | 50 ml | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 1-methanesulfonyloxy-2,2,5,5-tetramethylcyclopentane | 1.26 g | CS(=O)(=O)OC1C(CCC1(C)C)(C)C | C10H20O3S
